US09062032B2
By using 1.4 mL of (2-methoxyethoxy)acetic acid and 1.0 g of 3-(methylamino)propan-1-ol as starting materials, the reaction similar to Preparation Example 16 was performed, thereby obtaining 2.19 g of N-(3-hydroxypropyl)-2-(2-methoxyethoxy)-N-methylacetamide.

reactant | (2-methoxyethoxy)acetic acid | 1.4 mL | COCCOCC(=O)O | C5H10O4
reactant | 3-(methylamino)propan-1-ol | 1.0 g | CNCCCO | C4H11NO
product | N-(3-hydroxypropyl)-2-(2-methoxyethoxy)-N-methylacetamide | 2.19 g | OCCCN(C(COCCOC)=O)C | C9H19NO4
